US06175042B1
A mixture of 6.04 g of bis(2-methoxyphenyl) disulfide, 6.60 g of anhydrous potassium trifluoroacetate, and 9 ml of dry tetramethylene sulfone was stirred in a vacuum distillation apparatus at a pressure of 65 mbar. The mixture was slowly heated in an oil bath up to a maximum of 220° C., during which time volatile products were collected in a receiver that was cooled using dry ice. Redistillation of the crude product gave 3.20 g (70% of theory) of analytically pure 2-methoxyphenyl trifluoromethyl sulfide (boiling point 80° C. at 20 mbar).

reactant | bis(2-methoxyphenyl) disulfide | 6.04 g | COC1=C(C=CC=C1)SSC1=C(C=CC=C1)OC | C14H14O2S2
reactant | potassium trifluoroacetate | 6.60 g | FC(C(=O)[O-])(F)F.[K+]
reactant | tetramethylene sulfone | 9 ml | C1CCCS1(=O)=O | C4H8O2S
product | 2-methoxyphenyl trifluoromethyl sulfide | FC(F)(F)SC1=C(C=CC=C1)OC | C8H7F3OS
